US06664111B2
A solution of tin (II) chloride dihydrate (9.50 g) and 4-(4-bromophenyl)-8-nitroquinoline (4.60 g) in 50 mL absolute ethanol was refluxed for 6 hours. The reaction mixture was cooled to room temperature and then made alkaline with 30% KOH solution. The precipitated solid was filtered off, and dissolved in chloroform. The filtrate was extracted with ether. The ether extract and chloroform solution were combined and dried over MgSO4. Evaporation gave a solid with 1H-NMR spectral signals consistent with 8-amino-4-(4-bromophenyl)quinoline.

reactant | tin (II) chloride dihydrate | 9.50 g | O.O.[Sn](Cl)Cl
reactant | 4-(4-bromophenyl)-8-nitroquinoline | 4.60 g | BrC1=CC=C(C=C1)C1=CC=NC2=C(C=CC=C12)[N+](=O)[O-] | C15H9BrN2O2
reactant | KOH | [OH-].[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 8-amino-4-(4-bromophenyl)quinoline | NC=1C=CC=C2C(=CC=NC12)C1=CC=C(C=C1)Br | C15H11BrN2
